US04528375
A. N-{2-[(5-Dimethylaminomethyl-4-methyl-2-thienyl)methylthio]ethyl}ethanediimidamide trihydrochloride
A stirred solution of 3-amino-4-{2-[(5-dimethylaminomethyl-4-methyl-2-thienyl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide (17.9 g, 50.0 mmoles) [prepared according to the general procedure described in published U.K. patent application No. 2,067,987] in 500 mL of methanol was treated with 33.3 mL of concentrated HCl. After stirring for 3 hours, the reaction mixture was concentrated and excess water was removed by azeotropic concentration with absolute ethanol to give an almost colorless crystalline residue. The residue was triturated with 200 mL of absolute ethanol at 0° C., filtered and dried to give 16.9 g (80%) of the title compound, m.p. 206°-220° C. (dec.). Recrystallization from 50% methanol-ethyl acetate gave a product having m.p. 210°-221° C. (dec.).

reactant | 3-amino-4-{2-[(5-dimethylaminomethyl-4-methyl-2-thienyl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide | 50.0 mmoles, 17.9 g | NC1=NS(N=C1NCCSCC=1SC(=C(C1)C)CN(C)C)=O | C13H21N5OS3
reactant | HCl | 33.3 mL | Cl | ClH
solvent | methanol | 500 mL | CO | CH4O
product | N-{2-[(5-Dimethylaminomethyl-4-methyl-2-thienyl)methylthio]ethyl}ethanediimidamide trihydrochloride | 16.9 g, 80% | Cl.Cl.Cl.CN(C)CC1=C(C=C(S1)CSCCNC(C(N)=N)=N)C | InChI=1S/C13H23N5S2.3ClH/c1-9-6-10(20-11(9)7-18(2)3)8-19-5-4-17-13(16)12(14)15;;;/h6H,4-5,7-8H2,1-3H3,(H3,14,15)(H2,16,17);3*1H
